US04886803
1-Ethoxymethyl-2-ethoxycarbonylbenzimidazole
1-Ethoxymethylbenzimidazole (1.76 g) was dissolved in dry THF (40 ml) in a dry argon atmosphere, cooled to -60° C., and a solution of n-butyl lithium (1.58M) in hexane (9 ml) was added dropwise with stirring and allowed to react for 1 hr. After ethyl chloroformate (1.62 g) was added dropwise, the mixture was slowly returned to room temperature and allowed to react overnight. THF was distilled off, the residue was dissolved in ethyl acetate, washed with water, dried over anhydrous Na2SO4, and the solvent was distilled off. Purification of the residue by column chromatography on silica gel gave the title compound (0.89 g) as an oily product.

reactant | 1-Ethoxymethylbenzimidazole | 1.76 g | C(C)OCN1C=NC2=C1C=CC=C2 | C10H12N2O
reactant | n-butyl lithium | 1.58M | C(CCC)[Li]
reactant | ethyl chloroformate | 1.62 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | 9 ml | CCCCCC | C6H14
product | 1-Ethoxymethyl-2-ethoxycarbonylbenzimidazole | 0.89 g | C(C)OCN1C(=NC2=C1C=CC=C2)C(=O)OCC | C13H16N2O3
